US09290485B2
e) N-((6-Amino-2-methyl-4-(2-(methylamino)-2-oxoethoxy)pyridin-3-yl)methyl)-1-benzyl-1H-pyrazole-4-carboxamide
2-(6-amino-3-((1-benzyl-1H-pyrazole-4-carboxamido)methyl)-2-methylpyridin-4-yloxy)acetic acid (35 mg, 0.051 mmol) was dissolved in DMF (1 ml), CDl (16.65 mg, 0.103 mmol) was added. After stirring for 15 min at rt Methylamin 2M in THF (0.257 ml, 0.513 mmol) was added and the reaction mixture was stirred 6 h at rt. Purification by prep HPLC (Nucleosil C18, 250×40 mm 5 to 100% ACN and 0.1% TFA, flow 40 mml/min.) offered the title compound. 1H-NMR (DMSO-d6, 400 MHz): 2.71 (d, 3H), 4.37 (d, 2H), 4.67 (s, 2H), 5.34 (s, 2H), 6.20 (s, 1H), 7.24 (m, 5H), 7.79 (s, 2H), 7.89 (s, 1H), 8.25 (d, 2H), 8.28 (s, 1H), 8.35 (t, 1H). HPLC/MS (Method B) Rtb=0.46 min, MS [M+H]+=409.4.

reactant | 2-(6-amino-3-((1-benzyl-1H-pyrazole-4-carboxamido)methyl)-2-methylpyridin-4-yloxy)acetic acid | 0.051 mmol, 35 mg | NC1=CC(=C(C(=N1)C)CNC(=O)C=1C=NN(C1)CC1=CC=CC=C1)OCC(=O)O | C20H21N5O4
reactant | Methylamin | 2M | CN | CH5N
reactant | THF | 0.513 mmol, 0.257 ml | C1CCOC1 | C4H8O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | N-((6-Amino-2-methyl-4-(2-(methylamino)-2-oxoethoxy)pyridin-3-yl)methyl)-1-benzyl-1H-pyrazole-4-carboxamide | NC1=CC(=C(C(=N1)C)CNC(=O)C=1C=NN(C1)CC1=CC=CC=C1)OCC(=O)NC | C21H24N6O3
